US04423213
To a suspension of tert-butyl 2-hydroxyimino-3-oxobutyrate (46.8 g) and potassium carbonate (51.8 g) in ethyl acetate (70 ml) and N,N-dimethylformamide (70 ml) was added 2,2,2-trichloroethyl chloroacetate (56.5 g), and the mixture was stirred at 45° to 48° C. for 3.5 hours. After the insoluble inorganic substance was filtered off, to the filtrate were added water and ethyl acetate. The separated ethyl acetate solution was washed with water and a saturated aqueous sodium chloride, followed by drying over magnesium sulfate. Removal of the solvent gave tertbutyl 2-(2,2,2-trichloroethoxycarbonylmethoxyimino)-3-oxobutyrate (84.9 g).

reactant | tert-butyl 2-hydroxyimino-3-oxobutyrate | 46.8 g | ON=C(C(=O)OC(C)(C)C)C(C)=O | C8H13NO4
reactant | potassium carbonate | 51.8 g | C([O-])([O-])=O.[K+].[K+]
reactant | 2,2,2-trichloroethyl chloroacetate | 56.5 g | ClCC(=O)OCC(Cl)(Cl)Cl | C4H4Cl4O2
solvent | ethyl acetate | 70 ml | C(C)(=O)OCC | C4H8O2
solvent | N,N-dimethylformamide | 70 ml | CN(C=O)C | C3H7NO
product | tertbutyl 2-(2,2,2-trichloroethoxycarbonylmethoxyimino)-3-oxobutyrate | 84.9 g | ClC(COC(=O)CON=C(C(=O)OC(C)(C)C)C(C)=O)(Cl)Cl | C12H16Cl3NO6
